US06573273B1
Using the general method of Example 143, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (500 mg, 1.9 mmol) was reacted with phenyl isocyanate to provide 123 mg of N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea as a light brown solid, m.p. 171.5-172.5° C. Analysis: Calculated for C22H24N6O.0.60 H2O: %C 66.18; %H, 6.36; %N, 21.05; Found: %C, 66.05; %H, 6.43; %N, 20.61.

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.9 mmol, 500 mg | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea | 123 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)NC2=CC=CC=C2)C | C22H24N6O
